US09120777B2
D) 1-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A 2 M aqueous sodium hydroxide solution (1.73 mL) was added to a methanol (3 mL) solution of methyl 1-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate (382 mg), and the mixture was stirred at 50 C for 1 hour. The reaction mixture was cooled to room temperature and neutralized with 2 M hydrochloric acid, and the solvent was distilled off under reduced pressure. The obtained residue was crystallized from water, and the obtained solid was recrystallized (ethanol/diisopropyl ether/hexane) to obtain the title compound (211 mg).

reactant | sodium hydroxide | 2 M, 1.73 mL | [OH-].[Na+]
reactant | methyl 1-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 382 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)CC)=O | C32H36F2N2O4
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 1-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 211 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)CC)=O | C31H34F2N2O4
